US04042710
A solution of diethylisopropylmalonate (10.1g) in 15 ml of a 25% solution of HMPT (hexamethylphosphorus triamide) in toluene was added dropwise over 15 minutes to a suspension of sodium hydride (70 mM) in 25% HMPT/toluene (15 ml) at 50°-70° C. N-propyl iodide (17.0g) was then added over 30 minutes at 70°-100° C. and the mixture stirred at 120°-130° C. for 11/2 hours. After cooling, methylated spirits (10 ml) was added and the mixture poured onto a mixture of ice/hydrochloric acid. The product was extracted with ether, the ethereal extracts washed with sodium bicarbonate (X2), then water and dried over anhydrous magnesium sulphate. Removal of the solvent gave diethyl 2-isopropyl-2-propylmalonate as a yellow liquid b.p. 92°-94°/1 mm Hg. 87% yield.

reactant | diethylisopropylmalonate | 10.1g | C(C)OC(C(C(=O)OCC)C(C)C)=O | C10H18O4
reactant | HMPT | CN(C)P(N(C)C)N(C)C | C6H18N3P
reactant | sodium hydride | 70 mM | [H-].[Na+]
reactant | N-propyl iodide | 17.0g | CCCI | C3H7I
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | HMPT toluene | 15 ml | CN(C)P(N(C)C)N(C)C.C1(=CC=CC=C1)C
product | diethyl 2-isopropyl-2-propylmalonate | 87% yield | C(C)(C)C(C(=O)OCC)(C(=O)OCC)CCC | C13H24O4
